US09227978B2
1-(3-(4-(2-(4-Chloro-2-hydroxy-5-isopropylphenylamino)acetyl)piperazin-1-yl)azetidin-1-yl)prop-2-en-1-one (V-50)
To a solution of 1-(3-(4-(2-(4-chloro-5-isopropyl-2-methoxyphenylamino)acetyl)piperazin-1-yl)azetidin-1-yl)prop-2-en-1-one (77 mg, 0.18 mmol) in DCM (15 mL) at −60° C., BBr3 (443 mg, 1.8 mmol) was added dropwise and the resulting mixture was stirred at RT for 1 h. The mixture was cooled to −60° C., MeOH was added dropwise and then basified with Et3N to adjust the pH to 8-9. The mixture was poured into water and extracted with dichloromethane. The organic layer was dried over anhydrous Na2SO4, filtered and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel (dichloromethane/methanol=50:1) to afford the desired product (25 mg, 33% yield). 1H NMR (400 MHz, DMSO-d6) δ: 9.50 (bs, 1H), 6.62 (s, 1H), 6.470 (s, 1H), 6.30 (m, 1H), 6.10 (dd, J=2.4, 17.2 Hz, 1H), 5.68 (dd, J=2.0, 10.4 Hz, 1H), 5.14 (m, 1H), 4.25 (m, 1H), 4.06 (m, 1H), 3.96 (m, 1H), 3.91 (m, 2H), 3.78 (m, 1H), 3.54 (m, 4H), 3.17 (m, 2H), 2.35 (m, 4H), 1.21 (m, 6H). ESI-MS m/z: 421.4[M+H]+.

reactant | 1-(3-(4-(2-(4-chloro-5-isopropyl-2-methoxyphenylamino)acetyl)piperazin-1-yl)azetidin-1-yl)prop-2-en-1-one | 0.18 mmol, 77 mg | ClC1=CC(=C(C=C1C(C)C)NCC(=O)N1CCN(CC1)C1CN(C1)C(C=C)=O)OC | C22H31ClN4O3
reactant | BBr3 | 1.8 mmol, 443 mg | B(Br)(Br)Br | BBr3
reactant | MeOH | CO | CH4O
reactant | Et3N | CCN(CC)CC | C6H15N
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 1-(3-(4-(2-(4-Chloro-2-hydroxy-5-isopropylphenylamino)acetyl)piperazin-1-yl)azetidin-1-yl)prop-2-en-1-one | 25 mg, 33% yield | ClC1=CC(=C(C=C1C(C)C)NCC(=O)N1CCN(CC1)C1CN(C1)C(C=C)=O)O | C21H29ClN4O3
